US05977139
(R)-1-(3,4,5-Trimethoxybenzoyl)-3-(2-(4-phenyl-4-carboxypiperidin-1-yl)ethyl)-3-(3,4-dichlorophenyl)pyrrolidine
Combine (S)-3-(2-(4-phenyl-4-carboxypiperidin-1-yl)ethyl)-3-(3,4-dichlorophenyl)pyrrolidine (50 g, 112 mmol) and sodium bicarbonate (30 g) in tetrahydrofuran (1300 mL) and water (300 mL). Add portionwise over about 45 minutes, a solution of 3,4,5-trimethoxybenzoyl chloride (26 g, 112 mmol) in tetrahydrofuran (130 mL). After 2 hours, dilute with water (1000 mL). Adjust the pH to about 4 using concentrated aqueous hydrochloric acid to give a solid. Collect the solid by filtration and rinse with water. Triturate the solid with methanol (1300 mL) and water (1300 mL). Filter, rinse with water and dry in vacuo to give the title compound.

reactant | (S)-3-(2-(4-phenyl-4-carboxypiperidin-1-yl)ethyl)-3-(3,4-dichlorophenyl)pyrrolidine | 112 mmol, 50 g | C1(=CC=CC=C1)C1(CCN(CC1)CC[C@]1(CNCC1)C1=CC(=C(C=C1)Cl)Cl)C(=O)O | C24H28Cl2N2O2
reactant | sodium bicarbonate | 30 g | C([O-])(O)=O.[Na+]
reactant | 3,4,5-trimethoxybenzoyl chloride | 112 mmol, 26 g | COC=1C=C(C(=O)Cl)C=C(C1OC)OC | C10H11ClO4
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 1300 mL | O1CCCC1 | C4H8O
solvent | water | 300 mL | O | H2O
solvent | tetrahydrofuran | 130 mL | O1CCCC1 | C4H8O
solvent | water | 1000 mL | O | H2O
product | (R)-1-(3,4,5-Trimethoxybenzoyl)-3-(2-(4-phenyl-4-carboxypiperidin-1-yl)ethyl)-3-(3,4-dichlorophenyl)pyrrolidine | COC=1C=C(C(=O)N2C[C@](CC2)(C2=CC(=C(C=C2)Cl)Cl)CCN2CCC(CC2)(C(=O)O)C2=CC=CC=C2)C=C(C1OC)OC | C34H38Cl2N2O6
